US04493929
A solution of 70 g of 2-isopropyl-1, 4, 5, 6-tetrahydropyrimidine in 100 ml of pyridine was fed at about 1 ml/min to a column 1"×20" containing about 50 g of 0.5 percent platinum on α-alumina at 300° to 325° C. while sweeping out the column with a mixture of nitrogen and hydrogen. The catalyst had been activated by passing a 2:1 H2 /N2 stream over the bed for two hours. The effluent was distilled giving 2-isopropylpyrimidine at 152° to 155° C. The yield was 73 percent.

reactant | 2-isopropyl-1, 4, 5, 6-tetrahydropyrimidine | 70 g | C(C)(C)C=1NCCCN1 | C7H14N2
reactant | hydrogen | [H][H] | H2
reactant | H2 N2 | [H][H].N#N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
catalyst | platinum | about 50 g | [Pt] | Pt
product | 2-isopropylpyrimidine | yield was 73 percent | C(C)(C)C1=NC=CC=N1 | C7H10N2
